US05273975
N-(1-Formyl-1,2,3,4-tetrahydro- 3-quinolyl)formamide (compound XXVI)
A mixture of N-(3-quinolyl)formamide (30.0 g, 0.175 mol), platinum oxide (2.0 g) and acetic acid (300 mL) was hydrogenated (50 lb. initial H2 pressure) until 2 equivalents of H2 were consumed (reaction time 3 hours). The mixture was filtered through celite and the acetic acid removed under pressure. It was dissolved in ethyl acetate and washed with NaOH solution and water. Evaporation of the ethyl acetate gave 29.4 g of crude material. This was dissolved in 200 mL THF and acetic formic anhydride (prepared from formic acid (27.2 g, 0.59 mol) and acetic anhydride (53.5 g, 0.52 mol) was added at 0° C. After 15 minutes, the solution was allowed to warm to room temperature, and after an additional 15 minutes, methanol (60 mL) was added. The solution was evaporated and the resulting oil was partitioned between ethyl acetate and 4N sodium hydroxide solution. The sodium hydroxide solution was repeatedly extracted with ethyl acetate. The combined ethyl acetate was evaporated, and the crude product was purified by chromatography on silica gel using 2.5% methanol:chloroform as eluant to give 22.55 g (69%) of product. An analytical sample was crystallized from methanol:ether (1:3); mp 125°-128° C. Anal. Calcd. for C11H12N2O2 : C, 64.69; H, 5.92; N, 13.72. Found: C, 64.60; H, 5.97; N, 13.66.

reactant | N-(3-quinolyl)formamide | 0.175 mol, 30.0 g | N1=CC(=CC2=CC=CC=C12)NC=O | C10H8N2O
reactant | acetic formic anhydride | C(=O)OC(C)=O | C3H4O3
reactant | formic acid | 0.59 mol, 27.2 g | C(=O)O | CH2O2
reactant | acetic anhydride | 0.52 mol, 53.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | platinum oxide | 2.0 g | [Pt]=O
solvent | methanol | 60 mL | CO | CH4O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | N-(1-Formyl-1,2,3,4-tetrahydro- 3-quinolyl)formamide | 22.55 g, 69% | C(=O)N1CC(CC2=CC=CC=C12)NC=O | C11H12N2O2
